US04859229
from 4-chloro-2-fluoro-5-isopropoxyphenylurea and ethyl acetoacetate using finely powdered Amberlyst®-15 (an organic, polymeric resin having free sulphonyl groups) as the catalyst there is obtained ethyl 3-[3-(4-chloro-2-fluoro-5-isopropoxyphenyl)ureido]crotonate, m.p. 142°-144° C. and from this intermediate in dimethylformamide with sodium hydride there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6 -methyl-2,4(1H,3H)-pyrimidinedione, m.p. 228°-230° C.;

reactant | 4-chloro-2-fluoro-5-isopropoxyphenylurea | ClC1=CC(=C(C=C1OC(C)C)NC(=O)N)F | C10H12ClFN2O2
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | ethyl 3-[3-(4-chloro-2-fluoro-5-isopropoxyphenyl)ureido]crotonate | ClC1=CC(=C(C=C1OC(C)C)NC(N\C(=C/C(=O)OCC)\C)=O)F | C16H20ClFN2O4
